US05063208
Diethyl (2-Bromoallyl)acetamidomalonate
To a stirred mixture of diethyl acetaminomalonate (217 g, 1.0 mol) and 2,3-dibromopropene (240 g, 1.2 mol) in dry tetrahydrofuran (2.50 L), under nitrogen, was added sodium hydride (26.4 g, 1.1 mol) in several portions. The reaction mixture was stirred at room temperature for 30 min, then heated to reflux. After heating for 18 h, the resultant slurry was cooled to room temperature and suction filtered through a short pad of silica gel. The solid residue was washed with tetrahydrofuran (2×50 mL), and the filtrates were combined and concentrated. The residue was dissolved in ethyl acetate (2.0 L), washed with water and brine, and then was dried over MgSO4. Filtration and concentration gave a yellow oil which solidified upon drying. The resultant solid was recrystallized from a mixture of hot ethyl acetate/hexane to give 301 g (89%) of the desired product: m.p. 85°-87 ° C.

reactant | diethyl acetaminomalonate | 1.0 mol, 217 g | N(C(=O)C)C(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 2,3-dibromopropene | 1.2 mol, 240 g | BrC(=C)CBr | C3H4Br2
reactant | sodium hydride | 1.1 mol, 26.4 g | [H-].[Na+]
solvent | tetrahydrofuran | 2.50 L | O1CCCC1 | C4H8O
product | Diethyl (2-Bromoallyl)acetamidomalonate | 301 g, 89% | BrC(CCC(=O)NC(C(=O)OCC)C(=O)OCC)=C | C12H18BrNO5
